US09388189B2
(S)-1-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)urea
(S)-1-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)urea (40 mg, 0.06 mmol) was treated with trifluoroacetic acid (800 μl, 10.38 mmol) and a solution of ammonia (7N in methanol, 800 μl, 5.60 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 20% dichloromethane methanol) to obtain 26 mg (80% yield) of the title compound.

reactant | (S)-1-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)urea | 0.06 mmol, 40 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=C2C=CNC2=CC(=C1)NC(=O)N)COCC[Si](C)(C)C | C36H40N10O3Si
reactant | trifluoroacetic acid | 10.38 mmol, 800 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 5.60 mmol, 7N, 800 μl | N | H3N
product | (S)-1-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)urea | 26 mg, 80% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C1=C2C=CNC2=CC(=C1)NC(=O)N | C30H26N10O2
